US04725608
N-Amino-1,2,3,6-tetrahydropyridine hydrochloride (3.42 g) was dissolved in a mixture of dioxane (30 ml) and water (20 ml). The solution was adjusted to pH 7.5 with 1N-aqueous sodium hydroxide and to the resultant mixture was added a solution of 4-fluorophenylisocyanate (0.548 g) in dioxane (5 ml). Then, the mixture was kept to pH 7.5 and stirred for 2 hours at 5° C. After evaporation of organic solvent, the crystalline product was collected by filtration and recrystallized from diisopropyl ether to give white needles of N-[[(4-fluorophenyl)carbamoyl]amino]-1,2,3,6-tetrahydropyridine (0.73 g). mp: 156°-157° C.

reactant | N-Amino-1,2,3,6-tetrahydropyridine hydrochloride | 3.42 g | Cl.NN1CCC=CC1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-fluorophenylisocyanate | 0.548 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-[[(4-fluorophenyl)carbamoyl]amino]-1,2,3,6-tetrahydropyridine | 0.73 g | FC1=CC=C(C=C1)NC(=O)NN1CCC=CC1 | C12H14FN3O
